US05891909
e) 3-Benzyloxy-5-methylaniline
N-(3-Benzyloxy-5-methylphenyl)-2-hydroxy-2-methylpropanamide (600 mg, 2.0 mmol), as prepared in the preceding step, was mixed with 10N NaOH (25 mL) and ethanol (10 mL), and the mixture was refluxed for 2 days. After cooling to ambient temperature, the mixture was diluted with water (60 mL) and extracted with dichloromethane (3×60 mL). The dichloromethane solution was washed with brine (2×50 mL) and dried over Na2SO4. After evaporating the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane) to give the title compound as a yellow oil (265 mg, 61%). 1H-NMR (300 MHz, CDCl3) δ 7.37 (m, 5 H), 6.24 (s, 1 H), 6.14 (s, 2 H), 5.00 (s, 2 H), 3.59 (br s, 2 H), 2.23 (s, 3 H).

reactant | N-(3-Benzyloxy-5-methylphenyl)-2-hydroxy-2-methylpropanamide | 2.0 mmol, 600 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C)NC(C(C)(C)O)=O | C18H21NO3
reactant | NaOH | 10N, 25 mL | [OH-].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 60 mL | O | H2O
product | 3-Benzyloxy-5-methylaniline | 265 mg, 61% | C(C1=CC=CC=C1)OC=1C=C(N)C=C(C1)C | C14H15NO
